US04287133
Prod.: (many methods) e.g. from Myrcene, via Myrcene dihydrochloride to Dichloro di-methyloctene. This is converted to Chloro di-hydrogeranyl acetate (andneryl acetate) with Sodium Acetate in Benzene in presence of Triethylamine. The acetates are saponified with Calcium hydroxide to yield Hydroxycitronellol, from which the aldehyde is prepared by oxidation.

reactant | Myrcene | CC(=CCCC(=C)C=C)C | C10H16
reactant | Dichloro di-methyloctene | ClC(C(=C(C)C)Cl)CCCCC | C10H18Cl2
reactant | Sodium Acetate | C(C)(=O)[O-].[Na+]
reactant | Calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | Benzene | C1=CC=CC=C1 | C6H6
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | Hydroxycitronellol | OC\C(\C)=C/CCC(C)CCO | C10H20O2
